US07622496B2
5. Synthesis of Compound 80: (2S,4R)-1-(2-acetamidoacetyl)-4-benzamidopyrrolidine-2 -carboxylic acid
To a solution of (2S,4R) 1-(2-Amino-acetyl)-4-benzoylamino-pyrrolidine-2-carboxylic acid (0.05 g, 0.17 mmol) and triethylamine (Aldrich) (0.19 mL, 1.37 mmol, 8 equivalents) in acetone (3 mL) was slowly added acetic anhydride (0.13 mL, 1.37 mmol, 8 equivalents) with stirring at room temperature under nitrogen atmosphere. The mixture was stirred for 3 hours while monitored by LCMS. Upon completion, the volatiles were removed in vacuo and the residue was purified by preparative HPLC (column: Xterra MSC 18 50×250 mm, 10 u) using 40/60 to 90/10 methanol/water gradient (0.1% formic acid in methanol and 0.1 formic acid in water) to afford 0.020 g (35% yield) of the desired product as white solid with limited solubility in organic solvents.

reactant | (2S,4R) 1-(2-Amino-acetyl)-4-benzoylamino-pyrrolidine-2-carboxylic acid | 0.17 mmol, 0.05 g | NCC(=O)N1[C@@H](C[C@H](C1)NC(C1=CC=CC=C1)=O)C(=O)O | C14H17N3O4
reactant | triethylamine | 1.37 mmol, 0.19 mL, 8 equivalents | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.37 mmol, 0.13 mL, 8 equivalents | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | (2S,4R)-1-(2-acetamidoacetyl)-4-benzamidopyrrolidine-2 -carboxylic acid | 0.020 g, 35% yield | C(C)(=O)NCC(=O)N1[C@@H](C[C@H](C1)NC(C1=CC=CC=C1)=O)C(=O)O | C16H19N3O5
